US09193719B2
3-Methoxypropanenitrile (5.0 g, 58.8 mmol) was dissolved in anhydrous ethanol (50 mL) under an atmosphere of Ar. The solution was cooled to 0° C., saturated with HCl gas, stirred for 6 h, allowed to warm to RT, and stirred for 6 h. The solvent was removed in vacuo. The residue was slurried with hexanes (50 mL) and sonicated for 10 min. The solids were allowed to settle and the solvent was removed by decantation. This was repeated (3×). The solid was collected and dried under high vacuum for 5 h to afford ethyl 3-methoxypropanimidate hydrochloride (6.2 g, 63%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 12.03 (br s, 1H), 11.22 (br s, 1H), 4.42 (q, J=7.0 Hz, 2H), 3.60 (t, J=5.9 Hz, 2H), 3.23 (s, 3H), 2.87 (t, J=5.9 Hz, 2H), 1.33 (t, J=7.0 Hz, 3H).

reactant | 3-Methoxypropanenitrile | 58.8 mmol, 5.0 g | COCCC#N | C4H7NO
reactant | HCl | Cl | ClH
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 3-methoxypropanimidate hydrochloride | 6.2 g, 63% | Cl.COCCC(OCC)=N | InChI=1S/C6H13NO2.ClH/c1-3-9-6(7)4-5-8-2;/h7H,3-5H2,1-2H3;1H
